datasets/10k_Mayr_OG.csv
SMILES Labelled
"N#CC1=CC=C([N+:61]#[C-:10])C=C1.N#C[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12>>N#CC1=CC=C([N+:61]#[C:10][CH:20]2[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33](C#N)[C:34]3=[N:35]O[N+:42]([O-])=[C:41]23)C=C1 10=20;20,21=21,22;22,23=23"
"C[CH+:20][C:31]1=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]1C.C[Si:63]1(C)C[CH:11]([H:10])[CH2:62]1>>C[CH:20]([H:10])[C:31]1=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]1C.C[Si:63]1(C)C[CH+:11][CH2:62]1 10,11=10,20"
"C[N:21]([S:20]C(F)(F)F)[S:32](C1=CC=CC=C1)(=[O:33])=[O:34].C[N:65](C)[C:64]1=[CH:63][CH:62]=[N+:61](/[CH:10]=[C:11](/C2=CC=CC=C2)[O-:12])[CH:72]=[CH:73]1>>C[N-:21][S:32](C1=CC=CC=C1)(=[O:33])=[O:34].C[N:65](C)[C:64]1=[CH:63][CH:62]=[N+:61]([CH:10]([C:11](C2=CC=CC=C2)=[O:12])[S:20]C(F)(F)F)[CH:72]=[CH:73]1 10,11=10,20;12=11,12;20,21=21"
"C/[CH:63]=[CH:62]/[CH:11]([H:10])/[CH:72]=[CH:73]/C.C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1>>C/[CH:63]=[CH:62]/[CH+:11]/[CH:72]=[CH:73]/C.C[C:22]1=[C:21]([CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=C(C=CC=C2)[N:23]1C 10,11=10,20;20,21=21,22;22,23=23"
"F[C:31]1=[C:32](F)[C:33](=[O:34])[C:42](F)=[C:41](F)[C:20]1=[O:21].[C:10](=[N+:11]=[N-:12])([C:72]1=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]1)[C:92]1=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]1>>F[C:31]1=[C:32](F)[C:33](=[O:34])[C:42](F)=[C:41](F)[C:20]1([C:10]([N+:11]#[N:12])([C:72]1=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]1)[C:92]1=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]1)[O-:21] 10,11=10,20;12=11,12;20,21=21"
"CCCC[Sn:11](CCCC)(CCCC)[H:10].C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CCCC[Sn+:11](CCCC)CCCC.C[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20"
"C1C[NH:10][CH:61]([C:62]([F:63])([F:73])[F:83])C1.Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:35]2=[C:34](C=CC=C2)[C:33](Cl)=[CH:32]1>>C1C[NH+:10]([Cl:20])[CH:61]([C:62]([F:63])([F:73])[F:83])C1.Cl[C:21]1=[C:22]([O-:23])[C:35]2=[C:34](C=CC=C2)[C:33](Cl)=[CH:32]1 10=20;20,21=21,22;22,23=23"
"C1=CC=C(C2C3[CH:20](C4=CC=CC=C4)[Pd-:21]23([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1CC[N:12]([C:11](=[CH2:10])[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)CC1>>C1=CC=C(C2C([CH:20](C3=CC=CC=C3)[CH2:10][C:11](=[N+:12]3CCCCC3)[C:62]3=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]3)[Pd-2:21]2([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 10,11=10,20;12=11,12;20,21=21"
"CC12C3(C)C4(C)C5(C)C1(C)[Cr-3:11]2345(C#[O+])(C#[O+])(C#[O+])[H:10].O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12>>CC12C3(C)C4(C)C5(C)C1(C)[Cr-2:11]2345(C#[O+])(C#[O+])C#[O+].O=[N+]([O-])[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([H:10])[C:41]2=[N+:42]([O-])O[N:35]=[C:34]12 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]C(F)(F)F)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].C[Sn:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Sn:73](C)(C)C>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20](C(F)(F)F)[H:10])=[CH:22]1.C[Sn:63](C)(C)[CH2:62][CH+:11][CH2:72][Sn:73](C)(C)C 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C([N:31]=[C:20]=[S:21])C=C1.[N:10]1=[CH:11][CH:12]=[C:13]([NH2:14])[CH:62]=[CH:61]1>>C1=CC=C([N:31]=[C:20]([N:10]2[CH:11]=[CH:12][C:13](=[NH2+:14])[CH:62]=[CH:61]2)[S-:21])C=C1 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"C/[C:11](=[CH:10]/[P+:61](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[O-:12].C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1>>C[C:11]([CH:10]([CH:20]([O:21]C)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1)[P+:61](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=[O:12] 10,11=10,20;12=11,12;20,21=21"
"CC[O:33][C:22](/[CH:21]=[CH:20]/[C:41](=[O:42])[O:52]CC)=[O:23].[CH:10](=[C:11]1\[CH:12]=[CH:13]/[C:14](=[N+:15](/[O-:16])[O-:86])[CH:63]=[CH:62]1)\[C:71]#[N:72]>>CC[O:33][C:22](=[CH:21][CH:20]([CH:10]([C:11]1=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:86])[CH:63]=[CH:62]1)[C:71]#[N:72])[C:41](=[O:42])[O:52]CC)[O-:23] 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21,22;22,23=23"
"C1C[C:33]2=[C:34](O1)[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](OCC3)[CH:45]=[CH:46]1)=[CH:32]2.CN1C(=O)N(C)[C:72]2=[C:71](C1=O)[N:10]=[CH:11][N-:12]2>>CN1C(=O)N(C)[C:72]2=[C:71](C1=O)[N:10]([CH:20]([C:31]1=[CH:32][C:33]3=[C:34](OCC3)[CH:35]=[CH:36]1)[C:41]1=[CH:42][C:43]3=[C:44](OCC3)[CH:45]=[CH:46]1)[CH:11]=[N:12]2 10,11=10,20;12=11,12"
